US07648989B2
Preparation of 2,4-dichloro-5-methyl-pyridine
2,4-Dichloro-5-chloromethyl-pyridine (1.43 g, 7.28 mmol) is dissolved in ethanol (14 ml). After addition of triethyl amine (737 mg, 7.28 mmol), Raney nickel (143 mg) is added. The reaction vessel is connected to a balloon filled with H2. After 3 hours of very vigorous magnetically stirring at RT, NMR analysis of a reaction aliquot indicated complete conversion of the starting material. The reaction mixture is diluted with EtOAc and poured into water.

reactant | 2,4-Dichloro-5-chloromethyl-pyridine | 7.28 mmol, 1.43 g | ClC1=NC=C(C(=C1)Cl)CCl | C6H4Cl3N
reactant | triethyl amine | 7.28 mmol, 737 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethanol | 14 ml | C(C)O | C2H6O
catalyst | Raney nickel | 143 mg | [Ni] | Ni
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,4-dichloro-5-methyl-pyridine | ClC1=NC=C(C(=C1)Cl)C | C6H5Cl2N
